US08791123B2
Step B: Preparation of (R)-2-chloro-5-fluoro-3-(pyrrolidin-2-yl)pyridine dihydrochloride
To a dioxane (5 mL) solution of (R)-tert-butyl 2-(2-chloro-5-fluoropyridin-3-yl)pyrrolidine-1-carboxylate (500 mg, 1.66 mmol) was added HCl (4 N dioxane, 20 mL), followed by stirring at ambient temperature overnight. The mixture was concentrated and treated with Et2O, then vacuum-dried, to provide the product as a white solid (0.36 g, 80%). MS (apci pos) m/z=201.1 (M+H). The enantiomeric excess (ee %) of the product was determined to be >92% according to the method described in Preparation A.

reactant | (R)-tert-butyl 2-(2-chloro-5-fluoropyridin-3-yl)pyrrolidine-1-carboxylate | 1.66 mmol, 500 mg | ClC1=NC=C(C=C1[C@@H]1N(CCC1)C(=O)OC(C)(C)C)F | C14H18ClFN2O2
reactant | HCl | 4 N, 20 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-2-chloro-5-fluoro-3-(pyrrolidin-2-yl)pyridine dihydrochloride | 0.36 g, 80% | Cl.Cl.ClC1=NC=C(C=C1[C@@H]1NCCC1)F | InChI=1S/C9H10ClFN2.2ClH/c10-9-7(4-6(11)5-13-9)8-2-1-3-12-8;;/h4-5,8,12H,1-3H2;2*1H/t8-;;/m1../s1
